US07015218B1
3-Bromo-4-neopentyloxyaniline
Furthermore, ammonium chloride (10 g) and iron powder (75 g) were added to a mixed solvent of water (286 ml) and ethanol (753 ml), and the mixture was heated to 65° C. 3-Bromo-4-neopentyloxynitrobenzene (80 g) was added in parts over 20 min and the mixture was stirred at a refluxing temperature for 30 min. The reaction mixture was ice-cooled and filtrated. The solvent was evaporated under reduced pressure. To the residue was added sodium hydroxide and the mixture was extracted with toluene. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate, after which the solvent was evaporated under reduced pressure. Diisopropyl ether was added to the residue to allow crystallization. The crystals were recrystallized from a mixed solvent of ethyl acetate-n-hexane to give the title compound (70 g), melting point: 45° C.

reactant | ammonium chloride | 10 g | [Cl-].[NH4+]
reactant | water | 286 ml | O | H2O
reactant | 3-Bromo-4-neopentyloxynitrobenzene | 80 g | BrC=1C=C(C=CC1OCC(C)(C)C)[N+](=O)[O-] | C11H14BrNO3
catalyst | iron | 75 g | [Fe] | Fe
solvent | ethanol | 753 ml | C(C)O | C2H6O
product | 3-Bromo-4-neopentyloxyaniline | 70 g | BrC=1C=C(N)C=CC1OCC(C)(C)C | C11H16BrNO
